US07855215B2
5-(2-Amino-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
A solution of 170 mg (0.38 mMol) 5-(2-amino-6-chloro-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide in 19 ml EtOH/EtOAc 1:1 in hydrogenated in the presence of 80 mg Pd/C (10%; Engelhard 4505). The catalyst is filtered off and the filtrate diluted with EtOAc and sat. Na2CO3/H2O 1:1. The aqueous layer is extracted twice with EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and concentrated. Chromatography (Combi Flash; EtOAc/hexane 3:2→EtOAc) gives the title compound: MS: [M+1]+=416; TLC(hexane/EtOAc 3:7): Rf=0.14; HPLC: AtRet=12.0.

reactant | 5-(2-amino-6-chloro-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.38 mMol, 170 mg | FC(C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC(=NC(=C1)Cl)N)(F)F | C20H15ClF3N5O2
solvent | EtOH EtOAc | 19 ml | CCO.CCOC(=O)C
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | 5-(2-Amino-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC(=NC=C1)N)(F)F | C20H16F3N5O2
